US04166817
(a) Ethyl-4-azido-7-chloroquinoline-3-carboxylate
Sodium azide (0.62 g; 0.009 M) was suspended in a solution of ethyl-4,7-dichloroquinoline-3-carboxylate E. F. Elslager, et al., J. Med. Pharm, Chem, 5, 550 (1962) (1.75 g; 0.006 M) in dry dimethyl formamide (20 ml) and this mixture stirred at ambient temperatures. After 18 hr. the mixture was poured into reapidly stirred water (200 ml), the resultant precipitate filtered off, dried at the pump and then recrystallised from ethanol (8 ml/g), 1.27 g (71%), m.p. 94.5° C., (Found: C, 51.7; H, 3.4; N, 20.2; Cl, 12.9% C12H9N4O2Cl requires C, 52.0; H, 3.3; N, 20.2; Cl, 12.8%); max (KBr) 2140, 1722, 1390, 1372, 1274, 1239, 1199 and 1058 cm-1, (CDCl3) 1.48 (t) and 4.55 (m) (CH3CH2), 7.59 (m), 8.11 (d), 8.32 (d) and 9.29 (s) (aromatic H's) m/e 276 (M+, 14%), 248 (9%), 218 (22%), 154 (29% 152 (100%).

reactant | Sodium azide | 0.009 M, 0.62 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl-4,7-dichloroquinoline-3-carboxylate | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1Cl)Cl | C12H9Cl2NO2
reactant | water | 200 ml | O | H2O
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl-4-azido-7-chloroquinoline-3-carboxylate | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1N=[N+]=[N-])Cl | C12H9ClN4O2
